US08071581B2
Step 2: 2-Benzothiazol-6-yl-propionic acid methyl ester
A solution of n-BuLi (2.5M in hexane, 27.0 ml) was added to a stirred solution of diisopropylamine (7.08 g, 70.0 mmol) in anhydrous tetrahydrofuran (150 ml) cooled to −30° C. under a nitrogen atmosphere. The mixture was stirred for 30 minutes the reaction mixture was cooled to −78° C. To this solution was added a solution of benzothiazol-6-yl-acetic acid methyl ester (10.4 g, 50.0 mmol) in 10 ml of tetrahydrofuran and hexamethylphosphoramide (13.5 g, 75.0 mmol). The mixture was stirred at −78° C. for 2 hours before the addition of a solution of methyl iodide (10.2 g, 72.0 mmol) in anhydrous tetrahydrofuran at −78° C. The mixture was stirred for a further 2 hours at −78° C. The reaction mixture was warmed slowly to room temperature and diluted with aqueous saturated solution of NH4Cl (200 ml). The mixture was extracted with ethyl acetate (×2) and the combined organic layers were washed with water and brine, dried over anhydrous sodium sulfate and concentrated to give brown oil. This oil was purified via flash column chromatography eluting with petroleum and ethyl acetate (10:1) to return the title compound as a pale yellow oil (4.5 g, 40.5%).

reactant | n-BuLi | 2.5M, 27.0 ml | [Li]CCCC
reactant | diisopropylamine | 70.0 mmol, 7.08 g | C(C)(C)NC(C)C | C6H15N
reactant | benzothiazol-6-yl-acetic acid methyl ester | 50.0 mmol, 10.4 g | COC(CC1=CC2=C(N=CS2)C=C1)=O | C10H9NO2S
reactant | hexamethylphosphoramide | 75.0 mmol, 13.5 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | methyl iodide | 72.0 mmol, 10.2 g | CI | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | NH4Cl | 200 ml | [NH4+].[Cl-]
product | 2-Benzothiazol-6-yl-propionic acid methyl ester | COC(C(C)C1=CC2=C(N=CS2)C=C1)=O | C11H11NO2S
